US04284631
A suspension of 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 1.9 g.), palladium-carbon (0.9 g.), methanol (20 ml.) and tetrahydrofuran (20 ml.) was subjected to catalytic reduction under ordinary pressure at room temperature for 6 hours. After the insoluble substance was removed by filtration and washed with methanol, the filtrate was concentrated in vacuo. The residue was dissolved in a mixture of ethyl acetate and a sodium bicarbonate aqueous solution, and filtered out. The ethyl acetate layer was separated and extracted with a sodium bicarbonate aqueous solution. The aqueous solution was washed with ethyl acetate and ethyl acetate was added thereto. The mixture was adjusted to pH 2.5 with 10% hydrochloric acid under ice-cooling. The ethyl acetate layer was washed with a sodium chloride saturated aqueous solution, dried over magnesium sulfate and evaporated in vacuo. The residue was pulverized with diisopropyl ether to give 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 0.7 g.).

reactant | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylate | 1.9 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCCNC(=O)OC(C)(C)C | C28H30ClN7O10S2
reactant | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 0.9 g | [C].[Pd]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 0.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCCCNC(=O)OC(C)(C)C | C21H25ClN6O8S2
